US05922727
1-(2-Cyclopentyl)ethyl-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione and (2-cyclopentyl)ethyl toluenesulfonate were reacted by the same method with example 44 to obtain the titled compound (105 mg).

reactant | 5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O3
reactant | (2-cyclopentyl)ethyl toluenesulfonate | C=1(C(=CC=CC1)S(=O)(=O)OCCC1CCCC1)C | C14H20O3S
product | 1-(2-Cyclopentyl)ethyl-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 105 mg, Yield(%): 28.3 | C1C(CCC1)C(C)N1C(NC(C(=C1OC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C22H30N2O3
